US09034903B2
Synthesis of 1-(piperidin-4-yl)-3-(4-(trifluoromethoxy)phenyl)urea (4)
tert-butyl 4-(3-(4-(trifluoromethoxy)phenyl)ureido)piperidine-1-carboxylate (7.5 g, 18.6 mmol) was dissolved in HCl solution (2 M, MeOH, 100 mL). The resulting solution was refluxed for 2 h. The solvent was removed under vacuo and the crude was washed by dichloromethane twice and was basified to pH 10 by NaOH solution (6N). The final precipitates (5.6 g, 18.5 mmol, 99%) were filtered and dried under high vacuum. The final product (PTU/2) was served as a scaffold for the following urea inhibitors synthesis. 1H NMR (d6-DMSO, 300 Mhz): ∂ 1.19 (m, 2H), 1.74 (d, J=9 Hz, 2H), 2.10 (br, 1H), 2.48 (m, 2H), 2.87 (d, J=9 Hz, 2H), 2.90 (m, 1H), 6.18 (d, J=8 Hz, 1H), 7.20 (d, J=9 Hz, 2H), 7.46 (d, J=9 Hz, 2H), 8.52 (s, 1H). 19F NMR (d6-DMSO, 300 Mhz): ∂ 57.17.

reactant | tert-butyl 4-(3-(4-(trifluoromethoxy)phenyl)ureido)piperidine-1-carboxylate | 18.6 mmol, 7.5 g | FC(OC1=CC=C(C=C1)NC(NC1CCN(CC1)C(=O)OC(C)(C)C)=O)(F)F | C18H24F3N3O4
solvent | HCl | 2 M, 100 mL | Cl | ClH
product | 1-(piperidin-4-yl)-3-(4-(trifluoromethoxy)phenyl)urea | N1CCC(CC1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C13H16F3N3O2
